US06278016B1
Although the addition of acetic acid to isoprene in the presence of a catalytic amount of phosphoric acid will occur slowly at room temperature to yield prenyl acetate (systematically named as 3-methyl-2-buten-1-yl acetate), gentle heating of the reaction mixture in a pressure vessel at temperatures of approximately 40° C. to 100° C. is preferred if one wishes to conduct the process in several hours.

reactant | isoprene | C=CC(C)=C | C5H8
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | prenyl acetate | C(C)(=O)OCC=C(C)C | C7H12O2
